US06737417B2
A solution of (R)-2-(5-benzyloxy-2-bromophenoxy)-1-(4-benzyloxyphenyl)ethylamine (120 mg, 0.238 mmol), tris(dibenzylideneacetone)dipalladium (11 mg, 0.012 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (15 mg, 0.024 mmol) and potassium-t-butoxide (37 mg, 0.330 mmol) in toluene (2.5 ml) was stirred for 3 hours at 100° C. under a nitrogen stream. After cooling, water was added to the reaction mixture, which was then extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent: ethyl acetate/hexane=1/5, v/v) to give (R)-7-benzyloxy-3-(4-benzyloxy-phenyl)-3,4-dihydro-2H-benzo[1,4]oxazine (55.4 mg, Yield 55%).

reactant | (R)-2-(5-benzyloxy-2-bromophenoxy)-1-(4-benzyloxyphenyl)ethylamine | 0.238 mmol, 120 mg | C(C1=CC=CC=C1)OC=1C=CC(=C(OC[C@@H](C2=CC=C(C=C2)OCC2=CC=CC=C2)N)C1)Br | C28H26BrNO3
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.024 mmol, 15 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | potassium-t-butoxide | 0.330 mmol, 37 mg | CC(C)([O-])C.[K+]
reactant | water | O | H2O
solvent | toluene | 2.5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium | 0.012 mmol, 11 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (R)-7-benzyloxy-3-(4-benzyloxy-phenyl)-3,4-dihydro-2H-benzo[1,4]oxazine | 55.4 mg, Yield 55% | C(C1=CC=CC=C1)OC1=CC2=C(N[C@@H](CO2)C2=CC=C(C=C2)OCC2=CC=CC=C2)C=C1 | C28H25NO3
